US07473694B2
Synthesis of tert-butyl (S)-3-{7-{tert-butoxycarbonyl-[4-(2-methoxyethoxy)phenyl]amino}-6-[2-(tert-butyldimethylsilanyloxy)ethyl]pyrazolo[1,5-a]pyrimidin-5-ylamino}piperidine-1-carboxylate
To an acetonitrile (5 mL) solution containing tert-butyl {6-[2-(tert-butyldimethylsilanyloxy)ethyl]-5-chloropyrazolo[1,5-a]pyrimidin-7-yl}[4-(2-methoxyethoxy)phenyl]carbamate (570 mg, 1.20 mmol), (S)-3-amino-1-tert-butoxycarbonylpiperidine (1.51 g) was added, and this mixture was stirred at 85° C. for 48 hr. The reaction solution was concentrated, and the residue was purified with column chromatography (35% ethyl acetate-hexane) to obtain the title compound (204 mg).

reactant | tert-butyl {6-[2-(tert-butyldimethylsilanyloxy)ethyl]-5-chloropyrazolo[1,5-a]pyrimidin-7-yl}[4-(2-methoxyethoxy)phenyl]carbamate | 1.20 mmol, 570 mg | [Si](C)(C)(C(C)(C)C)OCCC=1C(=NC=2N(C1N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)OCCOC)N=CC2)Cl | C28H41ClN4O5Si
reactant | (S)-3-amino-1-tert-butoxycarbonylpiperidine | 1.51 g | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | tert-butyl (S)-3-{7-{tert-butoxycarbonyl-[4-(2-methoxyethoxy)phenyl]amino}-6-[2-(tert-butyldimethylsilanyloxy)ethyl]pyrazolo[1,5-a]pyrimidin-5-ylamino}piperidine-1-carboxylate | 204 mg | C(C)(C)(C)OC(=O)N(C1=C(C(=NC=2N1N=CC2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)CCO[Si](C)(C)C(C)(C)C)C2=CC=C(C=C2)OCCOC | C38H60N6O7Si
